US05382584
N-(4-nitro-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide (III)
A mixture of N-formylpiperazine (0.41 mL, 4.0 mmol), (4-nitro-2,6-dichlorophenyl)-2-bromoacetamide (1.31 g, 4.0 mmol), and K2CO3 (2.2 g) in 20 mL of DMF was stirred at room temperature for 15 minutes. The mixture was then partitioned between ethyl acetate and water, the aqueous extracts were diluted with brine, and then exhaustively extracted with ethyl acetate. Solvent was removed in vacuo from the combined ethyl acetate extracts to yield the III product as a residue (1.79 g): 1H NMR (300 MHz, CDCl3) δ 2.73-2.78 (m, 2H), 2.85-2.97 (m, 4H), 3.34 (s, 2H), 3.51-3.56 (m, 1H), 3.68-3.72 (m, 1H), 8.30 (s, 2H), 9.14 (broad s, 1H).

reactant | N-formylpiperazine | 4.0 mmol, 0.41 mL | C(=O)N1CCNCC1 | C5H10N2O
reactant | (4-nitro-2,6-dichlorophenyl)-2-bromoacetamide | 4.0 mmol, 1.31 g | [N+](=O)([O-])C1=CC(=C(C(=C1)Cl)C(C(=O)N)Br)Cl | C8H5BrCl2N2O3
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(4-nitro-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide | [N+](=O)([O-])C1=CC(=C(C(=C1)Cl)NC(CN1CCN(CC1)C=O)=O)Cl | C13H14Cl2N4O4
